US04072685
A mixture of 5.9 g of N-ethyl-3-(3',4'-dimethoxyphenyl)-piperidine and 30 ml of 66% hydrobromic acid was refluxed for an hour and was then evaporated to dryness under reduced pressure. The residue was crystallized from ethanol to obtain 5.9 g of N-ethyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide melting at 207° C.

reactant | N-ethyl-3-(3',4'-dimethoxyphenyl)-piperidine | 5.9 g | C(C)N1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C15H23NO2
reactant | hydrobromic acid | 30 ml | Br | BrH
product | N-ethyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide | 5.9 g | Br.C(C)N1CC(CCC1)C1=CC(=C(C=C1)O)O | InChI=1S/C13H19NO2.BrH/c1-2-14-7-3-4-11(9-14)10-5-6-12(15)13(16)8-10;/h5-6,8,11,15-16H,2-4,7,9H2,1H3;1H
